US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[4-(2,4-diaminopyrimidin-6-yl)benzoyl]piperazine hydrochloride
In the same manner as in Example A-4, a reaction was conducted using 4-(2,4-diamino-6-pyrimidyl)benzoic acid hydrochloride and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as starting materials, whereby the title compound was obtained.

reactant | 4-(2,4-diamino-6-pyrimidyl)benzoic acid hydrochloride | Cl.NC1=NC(=CC(=N1)N)C1=CC=C(C(=O)O)C=C1
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[4-(2,4-diaminopyrimidin-6-yl)benzoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC(=NC(=N1)N)N)=O | InChI=1S/C25H23ClN6O3S.ClH/c26-20-7-5-19-14-21(8-6-18(19)13-20)36(34,35)32-11-9-31(10-12-32)24(33)17-3-1-16(2-4-17)22-15-23(27)30-25(28)29-22;/h1-8,13-15H,9-12H2,(H4,27,28,29,30);1H
